US06790958B2
2-chloro-6-(4-methoxybenzylamino) purine was suspended in dry DMF (5 ml) and treated with sodium hydride, 60% dispersion (82 mg, 2.06 mmol). The suspension was stirred for 30 min over which time it became a clear yellow/green solution. 2-Iodopropane (0.280 mL, 1.7 eq.) was added over 5 min and the resultant solution stirred for 2 days. Water was added and the solution and extracted with ethyl acetate. The organic layer was evaporated to give the product isopropyl purine.

reactant | 2-chloro-6-(4-methoxybenzylamino) purine | ClC1=NC(=C2NC=NC2=N1)NCC1=CC=C(C=C1)OC | C13H12ClN5O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-Iodopropane | 0.280 mL, 1.7 eq. | IC(C)C | C3H7I
reactant | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | isopropyl purine | C(C)(C)C1=NC=C2NC=NC2=N1 | C8H10N4
